US05610162
Preparation of 4-methyl-20-(10-undecenoyloxy)-5α-4-azapregnan-3-one
To a solution of 20-hydroxy-4-methyl-5α-4-azapregnan-3-one (0.167 g, 0.5 mM) and pyridine (0.1 mL) in anhydrous methylene chloride (4.5 mL) at ice-bath temperatures was added 10-undecenoyl chloride (0.13 mL, 0.6 mM) dropwise. After 10 minutes, the reaction mixture was allowed to warm to room temperature and stir overnight. After diluting further with methylene chloride the mixture was washed with dilute hydrochloric acid, water, and brine, and dried (Na2SO4). The residue obtained from concentration of the filtered solution was flash chromatographed on silica gel using ethyl acetate as eluant to give the title compound as a glaze. MS M+ calculated for C32H53NO3, mw=499.78; observed m/e 499.

reactant | 20-hydroxy-4-methyl-5α-4-azapregnan-3-one | 0.5 mM, 0.167 g | OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C21H35NO2
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | 10-undecenoyl chloride | 0.6 mM, 0.13 mL | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
solvent | methylene chloride | 4.5 mL | C(Cl)Cl | CH2Cl2
product | 4-methyl-20-(10-undecenoyloxy)-5α-4-azapregnan-3-one | CN1[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)OC(CCCCCCCCC=C)=O)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C32H53NO3
